US07335660B2
(1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide (5 g, 22.6 mmol) was dissolved in a mixture of dry tetrahydrofuran (375 mL) and dry dimethylformamide (15 mL) with the aid of gentle heating. Triethylamine (4.6 g, 45.5 mmol) was added, followed by methanesulfonyl chloride (2.72 g, 23.8 mmol). The mixture was stirred under nitrogen at room temperature for 1 day. The reaction mixture was quenched with water (1000 mL) and the product extracted into ethyl acetate (2×500 mL). The combined organic extracts were washed with brine (2×500 mL), dried (MgSO4), and evaporated in vacuo to give the crude product as a white solid (6.5 g, 97%). The solid was triturated with ether (300 mL) to give 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate as a white solid.

reactant | (1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide | 22.6 mmol, 5 g | OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C12H15NO3
reactant | Triethylamine | 45.5 mmol, 4.6 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 23.8 mmol, 2.72 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 375 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
